US04617417
Ethyl 3,4-dimethoxybenzenecarbamate
A solution of 919 g (6 mol) of 3,4-dimethoxyaniline in 5 L of methylene chloride was treated with 3.3 L of 2N sodium hydroxide. The reaction mixture was cooled to 12° C. and 603 mL (6.3 mol) of ethyl chloroformate was added at a rate to keep the temperature between 25°-30° C. The reaction mixture was stirred at room temperature for 2 hr and the layers were separated. The aqueous layer was extracted with 3×1500 mL of methylene chloride and the combined organic layers were dried over sodium sulfate and treated with Darco*. Evaporation gave an oil to which 3 L of ethyl acetate and 1 L of hexanes were added to crystallize the product. After cooling at 4° C. for 3 hr, the product was filtered and washed with 3×1 L of hexanes. Drying under vacuum gave 1133 g (84%) of the product, mp 75°-78° C. NMR (CDCl3) δ 1.30 (t, 3H, J=7 Hz, OCH2 --CH3), 3.83 (s, 6H, OCH3), 4.18 (q, 2H, J=7 Hz, OCH2 --CH3), 6.58 (br s, 1H, NH ), 6.70 (m, 2H, ArH), 7.12 (m, 1H, ArH).

reactant | 3,4-dimethoxyaniline | 6 mol, 919 g | COC=1C=C(N)C=CC1OC | C8H11NO2
reactant | sodium hydroxide | 2N, 3.3 L | [OH-].[Na+]
reactant | ethyl chloroformate | 6.3 mol, 603 mL | ClC(=O)OCC | C3H5ClO2
solvent | methylene chloride | 5 L | C(Cl)Cl | CH2Cl2
product | Ethyl 3,4-dimethoxybenzenecarbamate | 1133 g, 84% | COC=1C=C(C=CC1OC)NC(=O)OCC | C11H15NO4
